US07799814B2
To a solution of N-pyrazin-2-ylthiourea (5 g, 0.032 mol) in absolute ethanol (50 ml) is added 3-chloro-2,4-pentanedione (4.4 g, 0.032 mol). The mixture is refluxed for 20 h under nitrogen. The reaction mixture is cooled down to rt and the resulting precipitate is filtered, washed with ethanol (25 ml) and dried under suction to afford 1-[4-Methyl-2-(pyrazin-2-ylamino)-1,3-thiazol-5-yl]ethanone, hydrochloride salt as white-off solid (7 g; 92%). 1H NMR (DMSO-d6, 300 MHz): δ 2.47 (s, 3H), 2.57 (s, 3H), 8.21 (s, 1H), 8.41 (s, 1H), 8.48 (s, 1H), 12.2 (br s, 1H). M+ (ESI): 234.9. HPLC (Method B), Rt: 1.56 min (purity: 97.75%). TLC: Chloroform/methanol (9/1): Rf−0.25. Mp: 224° C.-229° C.

reactant | N-pyrazin-2-ylthiourea | 0.032 mol, 5 g | N1=C(C=NC=C1)NC(=S)N | C5H6N4S
reactant | 3-chloro-2,4-pentanedione | 0.032 mol, 4.4 g | ClC(C(C)=O)C(C)=O | C5H7ClO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[4-Methyl-2-(pyrazin-2-ylamino)-1,3-thiazol-5-yl]ethanone, hydrochloride salt | Cl.CC=1N=C(SC1C(C)=O)NC1=NC=CN=C1 | InChI=1S/C10H10N4OS.ClH/c1-6-9(7(2)15)16-10(13-6)14-8-5-11-3-4-12-8;/h3-5H,1-2H3,(H,12,13,14);1H
